US05137918
N-(2'-Nitrophenyl)-4-isobutyrylaminobenzamide is prepared under the reaction conditions given in Example 5: after the addition of pyridine/o-nitroaniline, the reaction solution is stirred for 15 hours at ambient temperature and for 5 hours at boiling temperature, the following components being used: 54.6 g (74.68 mMole) dimethylformamide, 1.5 L dry ethyl acetate, 37.3 g (29.42 mMole) oxalyl chloride, 47 g (22.63 mMole) 4-isobutyrylaminobenzoic acid, 34.4 g (24.89 mMole) o-nitroaniline, and 25.6 g (32.36 mMole) pyridine. The product is recrystallized from ethyl acetate. Yield 13.3 g (18% of theory); m.p. 237.6° C.

reactant | pyridine o-nitroaniline | N1=CC=CC=C1.[N+](=O)([O-])C1=C(N)C=CC=C1
reactant | dimethylformamide | 74.68 mMole, 54.6 g | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 29.42 mMole, 37.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-isobutyrylaminobenzoic acid | 22.63 mMole, 47 g | C(C(C)C)(=O)NC1=CC=C(C(=O)O)C=C1 | C11H13NO3
reactant | o-nitroaniline | 24.89 mMole, 34.4 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | pyridine | 32.36 mMole, 25.6 g | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 1.5 L | C(C)(=O)OCC | C4H8O2
product | N-(2'-Nitrophenyl)-4-isobutyrylaminobenzamide | [N+](=O)([O-])C1=C(C=CC=C1)NC(C1=CC=C(C=C1)NC(C(C)C)=O)=O | C17H17N3O4
